US07776869B2
A solution of thiophene (3.3 g, 39 mmol) in THF (100 mL) was cooled to −78° C. n-Butyllithium (2.5 M in hexane, 24 mL, 59 mmol) was added and the mixture stirred at −78° C. for 1 h. 2-Chloro-5-bromopyrimidine (7.5 g, 39 mmol) was added and the mixture stirred at −78° C. for 1 h. DDQ (17.7 g, 78 mmol) was added with stirring, followed by the addition of methanol (5 mL). The mixture stirred for 1 h and was then warmed to 0° C. and then to RT. The reaction mixture was poured into 0.5 M sodium ascorbate (aq) solution (100 mL), and allowed to stir for 1 h. The mixture was treated with saturated aqueous potassium carbonate solution (50 mL), and extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified via column chromatography on silica gel (eluting with 100% dichloromethane) to afford 5-bromo-2-chloro-4-(thiophen-2-yl)pyrimidine as a yellow solid. MS m/z=276 [M+H]+. Calc'd for C8H4BrClN2S: 275.

reactant | thiophene | 39 mmol, 3.3 g | S1C=CC=C1 | C4H4S
reactant | n-Butyllithium | 59 mmol, 2.5 M, 24 mL | C(CCC)[Li]
reactant | 2-Chloro-5-bromopyrimidine | 39 mmol, 7.5 g | ClC1=NC=C(C=N1)Br | C4H2BrClN2
reactant | DDQ | 78 mmol, 17.7 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | sodium ascorbate | 0.5 M | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | potassium carbonate | 50 mL | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | 5-bromo-2-chloro-4-(thiophen-2-yl)pyrimidine | BrC=1C(=NC(=NC1)Cl)C=1SC=CC1 | C8H4BrClN2S
